US07396836B2
5-[2-Amino-4-(2-furyl)-5-pyrimidinyl]-1-propyl-1,2-dihydro-2-pyridinone
In a reaction vessel, 5-[2-amino-4-(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone (100 mg, 0.393 mmol) and potassium carbonate (109 mg, 0.787 mmol) were suspended in methanol (2 ml). Then, propyl iodide (134 mg, 0.787 mmol) was added thereto, followed by stirring at 50° C. for 17 hours. After the reaction was terminated, the mixture was concentrated and suspended in dimethylsulfoxide. The insoluble matters were removed by filtration and the resulting filtrate was purified by HPLC, to give the title compound (48 mg, 41%) as a pale yellow solid.

reactant | 5-[2-amino-4-(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone | 0.393 mmol, 100 mg | NC1=NC=C(C(=N1)C=1OC=CC1)C=1C=CC(NC1)=O | C13H10N4O2
reactant | potassium carbonate | 0.787 mmol, 109 mg | C([O-])([O-])=O.[K+].[K+]
reactant | propyl iodide | 0.787 mmol, 134 mg | C(CC)I | C3H7I
solvent | methanol | 2 ml | CO | CH4O
product | 5-[2-Amino-4-(2-furyl)-5-pyrimidinyl]-1-propyl-1,2-dihydro-2-pyridinone | 48 mg, 41% | NC1=NC=C(C(=N1)C=1OC=CC1)C=1C=CC(N(C1)CCC)=O | C16H16N4O2
